US05494908
3-[[2-(4-Morpholinyl)ethyl]amino]-1,2-benzisoxazol-6-yl methylcarbamate
To a stirred solution of 3-[[2-(4-morpholinyl)ethyl]amino]-1,2-benzisoxazol-6-ol (2 g) and copper(I)chloride (0.3 g) in EtOAc (60 ml) was added methyl isocyanate (0.5 g). After 3.5 hours TLC (silica gel, 10% MeOH/DCM) showed no starting material. The reaction was filtered through neutral alumina eluting with EtOAc (2 l) and the filtrate was concentrated in vacuo. Flash column chromatography (silica gel) eluting with 1:1:20 acetone/MeOH/DCM afforded a white solid which was recrystallized from EtOAc/pet. ether to yield 0.7 g of the expected product, m.p. 127°-128° C.

reactant | 3-[[2-(4-morpholinyl)ethyl]amino]-1,2-benzisoxazol-6-ol | 2 g | N1(CCOCC1)CCNC1=NOC2=C1C=CC(=C2)O | C13H17N3O3
reactant | methyl isocyanate | 0.5 g | CN=C=O | C2H3NO
reactant | MeOH DCM | CO.C(Cl)Cl
solvent | EtOAc | 60 ml | CCOC(=O)C | C4H8O2
catalyst | copper(I)chloride | 0.3 g | [Cu]Cl
product | 3-[[2-(4-Morpholinyl)ethyl]amino]-1,2-benzisoxazol-6-yl methylcarbamate | 0.7 g | CNC(OC1=CC2=C(C(=NO2)NCCN2CCOCC2)C=C1)=O | C15H20N4O4
